US07618979B2
Step 3 methyl [1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]-acetate
To a mixture of dimethyl 2-[1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]-pyrrolizin-8-yl]malonate (0.59 g, 2.17 mmol) and DMSO (4mL) was added NaCl (0.45 g) in H2O (0.45 mL). After a period of 18 h at 150° C., the reaction mixture was partitioned between ETOAc and H2O. The organic phase was separated, dried over Na2SO4 and evaporated. The title compound was then purified by flash chromatography.

reactant | dimethyl 2-[1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]-pyrrolizin-8-yl]malonate | 2.17 mmol, 0.59 g | CSC1=NC=CC2=C1C=C1C(CCN21)C(C(=O)OC)C(=O)OC | C16H18N2O4S
reactant | DMSO | 4mL | CS(=O)C | C2H6OS
reactant | NaCl | 0.45 g | [Na+].[Cl-]
solvent | H2O | 0.45 mL | O | H2O
product | methyl [1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]-acetate | CSC1=NC=CC2=C1C=C1C(CCN21)CC(=O)OC | C14H16N2O2S
